US06593333B1
Using analogous procedures to those described in the portion of Example 2 which is concerned with the preparation of starting materials, 4-chloro-6,7-dimethoxyquinazoline was reacted with 4-fluoro-3-nitroaniline to give 4-(4-fluoro-3-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride; NMR: 3.98 (s, 3H), 4.03 (s, 3H), 7.39 (m, 1H), 7.7 (m, 1H), 8.25 (m, 1H), 8.44 (m, 1H), 8.62 (m, 1H), 8.9 (m, 1H), 11.85 (s, 1H); Mass: M+H+ 345 and that material was reduced during 1.5 hours to give 4-(3-amino-4-fluoroanilino)-6,7-dimethoxyquinazoline; NMR: 3.9 (s, 3H), 3.92 (s, 3H), 5.11 (s, 2H), 6.84 (m, 1H), 6.96 (m, 1H), 7.12 (s, 1H), 7.18 (s, 1H), 7.79 (s, 1H), 8.39 (s, 1H); 9.22 (s, 1H); Mass: M+H+ 315.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-fluoro-3-nitroaniline | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
product | 4-(4-fluoro-3-nitroanilino)-6,7-dimethoxyquinazoline hydrochloride | Cl.FC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)[N+](=O)[O-] | InChI=1S/C16H13FN4O4.ClH/c1-24-14-6-10-12(7-15(14)25-2)18-8-19-16(10)20-9-3-4-11(17)13(5-9)21(22)23;/h3-8H,1-2H3,(H,18,19,20);1H
